US07687533B2
N-{5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-N-[(methylsulfonyl)methyl]methanesulfonamide
To a solution of N-{5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-N-[(methylthio)methyl]methanesulfonamide (108 mg, 0.23 mmol) in acetone (35 ml) was added sodium carbonate (318 mg, 3.04 mmol), followed by Oxone® (924 mg, 1.52 mmol) in water (12 ml). The reaction mixture was then stirred at room temperature for 5 h. To the reaction mixture was added water and the solution was extracted with ethyl acetate. The combined extracts were washed with brine, dried (MgSO4) and concentrated in vacuo. The crude product was dissolved in a mixture of acetonitrile (1 ml) and water (1 ml) and purified by automated preparative liquid chromatography (Gilson system, 150 mm×30 mm Phenomenex LUNA C18(2) 10 μm column) using an acetonitrile:water gradient [45:55 to 95:5]. The appropriate fractions were concentrated in vacuo to give the titled compound (55 mg).

reactant | N-{5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-N-[(methylthio)methyl]methanesulfonamide | 0.23 mmol, 108 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)N(S(=O)(=O)C)CSC | C14H12Cl2F3N5O2S2
reactant | sodium carbonate | 3.04 mmol, 318 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | water | 12 ml | O | H2O
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | N-{5-amino-3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-N-[(methylsulfonyl)methyl]methanesulfonamide | 55 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)N(S(=O)(=O)C)CS(=O)(=O)C | C14H12Cl2F3N5O4S2
